### PR TITLE
Regexp auto proofs

### PR DESCRIPTION
**Pull request by ztatlock**
Toplevel negate is working.

Also ktm is cleaned up.

Pattern representation is more orthogonal.

I think we can do the ssh property with this, right @d1jang ?

Thoughts on the code @Ptival @d1jang ?

Thanks!

### CODE REVIEW

File: compiler/test/echo-00/kernel.krn [hunk 1]
```diff
@@ -67,4 +67,9 @@ Properties {
     Match {
       (.*[recv M])?[^send M]*
     };
+
+  Never2Sends =
```
Comment (ztatlock) [inline compiler/test/echo-00/kernel.krn:71]: @d1jang this is a bit like the ssh property, right?

**Comment by ztatlock** [comment]
@d1jang IT WORKS :D 

@d1jang @Ptival can you please review this code so we can merge it?

**Comment by ztatlock** [comment]
@d1jang don't push to this branch until the PR gets merged.

If you want to work on top of this code, just make a new branch.

File: compiler/kernel-template/coq/KProp.v-template [hunk 2]
```diff
@@ -228,27 +371,113 @@ Lemma distr_cat_alt_r :
...
+  apply distr_star_and_nact_l; auto.
+  (* <- *)
+  inv H. induction tr. constructor.
+  apply KTM_Star_NAct_cons in H2; destruct H2.
+  apply KTM_Star_NAct_cons in H4; destruct H4.
+  replace (a :: tr) with ((a :: nil) ++ tr) by auto.
+  repeat constructor; auto.
 Qed.
 
+Ltac apply_ktm_false_hyp :=
```
Comment (Ptival) [inline compiler/kernel-template/coq/KProp.v-template:454]: :)

File: compiler/kernel-template/coq/KProp.v-template [hunk 3]
```diff
@@ -259,42 +488,64 @@ Ltac ktm_basic :=
...
-  | [ |- KTraceMatch (KTP_Cat KTP_Empty _)     _ ] => apply KTM_Cat_Empty
+  | [ |- KTraceMatch (KTP_Cat KTP_Emp _)       _ ] => apply KTM_Cat_Empty
   | [ |- KTraceMatch (KTP_Cat (KTP_Alt _ _) _) _ ] => apply distr_cat_alt_l
   | [ |- KTraceMatch (KTP_Cat _ (KTP_Alt _ _)) _ ] => apply distr_cat_alt_r
+  | [ |- KTraceMatch (KTP_Star (KTP_And (KTP_Act _)  (KTP_Act _)))  _ ] =>
+    apply distr_star_and_act2
+  | [ |- KTraceMatch (KTP_Star (KTP_And (KTP_NAct _) (KTP_NAct _))) _ ] =>
+    apply distr_star_and_nact2
+
+  (* get the party started *)
```
Comment (Ptival) [inline compiler/kernel-template/coq/KProp.v-template:518]: :)

File: compiler/kernel-template/coq/KProp.v-template [hunk 4]
```diff
@@ -259,42 +488,64 @@ Ltac ktm_basic :=
...
+  | [ H: ?l ++ _ = nil      |- _     ] => destruct l; inv H; ktm_solve
+  | [ H: ?l ++ _ = _ :: _   |- _     ] => destruct l; inv H; ktm_solve
+  | _ => apply_ktm_false_hyp; ktm_solve
+
+  (* try different list groupings *)
   | _ =>
     rewrite app_comm_cons; ktm_solve
+  | [ |- KTraceMatch _ (?a :: ?l) ] =>
+    replace (a :: l) with (nil ++ a :: l) by auto; ktm_solve
   | [ |- KTraceMatch _ (?a0 :: ?a1 :: ?a2 :: ?a3 :: ?a4 :: ?a5 :: ?a6 :: ?a7 :: ?a8 :: ?a9 :: ?t) ] =>
```
Comment (Ptival) [inline compiler/kernel-template/coq/KProp.v-template:549]: When does that occur?

File: compiler/kernel-template/coq/KProp.v-template [hunk 5]
```diff
@@ -343,4 +594,59 @@ Ltac ktm_solve :=
...
+  fold (Kernel.ktr s) in *;
+  (* __FOLD_KSTATE_TAC__ *)
+  idtac.
+
+Ltac revert_when_hyps :=
+  repeat match goal with
+  | [ H: nat_of_num _ = _ |- _ ] => revert H
+  end.
+
+Ltac prep_neg_search :=
```
Comment (Ptival) [inline compiler/kernel-template/coq/KProp.v-template:616]: Too clever?

**Comment by Ptival** [comment]
Overall, quite reasonable.

File: compiler/kernel-template/coq/KProp.v-template (hunk 4 above)
Comment (ztatlock) [inline compiler/kernel-template/coq/KProp.v-template:549]: If you need to match .*FOO but the trace just matches FOO.

Arises in negative cases.

File: compiler/kernel-template/coq/KProp.v-template (hunk 5 above)
Comment (ztatlock) [inline compiler/kernel-template/coq/KProp.v-template:616]: Definitely, but not sure how to simplify it yet.
